US08445501B2
4-(2-Cyclopropylmethoxy-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-acetyl-piperidin-4-yl)-amide
Starting from 4-(2-cyclopropylmethoxy-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide (example A152) and acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide | N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C=C2)OC)OCC2CC2 | C23H27N5O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4-(2-Cyclopropylmethoxy-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-acetyl-piperidin-4-yl)-amide | C(C)(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C=C2)OC)OCC2CC2 | C25H29N5O4
